US05962458
A solution of 6-methoxy-7-(2-(N-methyl-N-(t-butylcarbonyl)amino)ethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (1.39 g, 3 mmol) in methylene chloride (4 ml) and TFA (4 ml) was stirred at ambient temperature for 1 hour. Toluene was added, and the volatiles were removed by evaporation. The residue was triturated with ether and the resulting solid was collected by filtration. The solid was dissolved in water, sodium hydrogen carbonate was added and the aqueous mixture was extracted with methylene chloride. The organic extract was dried (MgSO4) and the solvent removed by evaporation. The residue was triturated with ether and the solid was collected by filtration to give 6-methoxy-7-(2-(methylamino)ethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (800 mg, 73%).

reactant | 6-methoxy-7-(2-(N-methyl-N-(t-butylcarbonyl)amino)ethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 3 mmol, 1.39 g | COC=1C=C2C(N(C=NC2=CC1OCCN(C(=O)C(C)(C)C)C)COC(C(C)(C)C)=O)=O | C23H33N3O6
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-methoxy-7-(2-(methylamino)ethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 800 mg, 73% | COC=1C=C2C(N(C=NC2=CC1OCCNC)COC(C(C)(C)C)=O)=O | C18H25N3O5
